US06737425B1
86-3) 2-(2-Hydroxy-4-fluorophenoxy)ethanol
2-(2-Acetoxy-4-fluorophenoxy)ethanol 1.53 g was dissolved in a mixed solvent of tetrahydrofuran 10 ml and water 5 ml, then lithium hydroxide monohydride 294 mg was added thereto, and the mixture was stirred at 90° C. After stirred for 10 hours, the reaction mixture was cooled and partitioned by adding water and ethyl acetate. The organic layer was washed with water and then with brine, dried over magnesium sulfate anhydride and evaporated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate system), whereby the title compound (1.07 g, 80%) was obtained as a colorless oil.

reactant | 2-(2-Acetoxy-4-fluorophenoxy)ethanol | 1.53 g | C(C)(=O)OC1=C(OCCO)C=CC(=C1)F | C10H11FO4
reactant | lithium hydroxide monohydride | 294 mg | [H-].[OH-].[Li+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | 2-(2-Hydroxy-4-fluorophenoxy)ethanol | OC1=C(OCCO)C=CC(=C1)F | C8H9FO3
